US08748466B2
Hydrochloric acid (4.0 M in 1,4-dioxane, 0.13 mL, 0.51 mmol, 4 equiv) was added to a solution of (2R)-4-[5-(2-fluoro-3-methoxyphenyl)isoxazol-3-yl]-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide (0.60 g, 0.13 mmol, 1.0 equiv) in 1,4-dioxane-dichloromethane-water (2:2:1, 2.5 mL), and the reaction was allowed to stir at room temperature for 2 h. The solvent was removed under reduced pressure, and the resulting crude material purified by preparative HPLC (Sepax 2-ethyl pyridine 250×21.2 mm 5 μm, heptane-ethanol solvent system as eluent) to provide (2R)-4-[5-(2-Fluoro-3-methoxyphenyl)isoxazol-3-yl]-N-hydroxy-2-methyl-2-(methylsulfonyl)butanamide butanamide (0.01 g, 20%). MS (LCMS) m/z 385.0 (M−1). 1H NMR (400 MHz, METHONAL-d4) δ1.59-1.71 (m, 3H) 2.13-2.29 (m, 1H) 2.61-2.81 (m, 2H) 2.80-2.99 (m, 1H) 3.07 (s, 3H) 3.92 (s, 3H) 6.65-6.84 (m, 1H) 7.16-7.30 (m, 2H) 7.37-7.52 (m, 1H).

reactant | Hydrochloric acid | 0.51 mmol, 4.0 M, 0.13 mL, 4 equiv | Cl | ClH
reactant | (2R)-4-[5-(2-fluoro-3-methoxyphenyl)isoxazol-3-yl]-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide | 0.13 mmol, 0.60 g, 1.0 equiv | FC1=C(C=CC=C1OC)C1=CC(=NO1)CC[C@](C(=O)NOC1OCCCC1)(S(=O)(=O)C)C | C21H27FN2O7S
solvent | 1,4-dioxane dichloromethane water | 2.5 mL | O1CCOCC1.ClCCl.O
product | (2R)-4-[5-(2-Fluoro-3-methoxyphenyl)isoxazol-3-yl]-N-hydroxy-2-methyl-2-(methylsulfonyl)butanamide butanamide | 0.01 g, 20% | C(CCC)(=O)N.FC1=C(C=CC=C1OC)C1=CC(=NO1)CC[C@](C(=O)NO)(S(=O)(=O)C)C | InChI=1S/C16H19FN2O6S.C4H9NO/c1-16(15(20)18-21,26(3,22)23)8-7-10-9-13(25-19-10)11-5-4-6-12(24-2)14(11)17;1-2-3-4(5)6/h4-6,9,21H,7-8H2,1-3H3,(H,18,20);2-3H2,1H3,(H2,5,6)/t16-;/m1./s1
